US06924400B2
(j) (4-{[4′-(1-Ethyl-1-hydroxypropyl)-6,2′-dimethylbiphenyl-3-ylamino]methyl}-2-hydroxymethylphenyl)methanol
450 mg (1.1 mmol) of 1-{5′-[3,4-bis(hydroxymethyl)benzylamino]-2,2′-dimethylbiphenyl-4-yl}-1-propanone are dissolved in 30 ml of THF. 1.5 ml (4.5 mmol) of ethylmagnesium bromide are added and the medium is stirred at room temperature for 1 hour. After the usual work-up, the residue is purified by chromatography on silica gel (eluent: 1 heptane/1 ethyl acetate). A white solid is obtained (m=130 mg; Y=27%).

reactant | 1-{5′-[3,4-bis(hydroxymethyl)benzylamino]-2,2′-dimethylbiphenyl-4-yl}-1-propanone | 1.1 mmol, 450 mg | OCC=1C=C(CNC=2C=CC(=C(C2)C2=C(C=C(C=C2)C(CC)=O)C)C)C=CC1CO | C26H29NO3
reactant | ethylmagnesium bromide | 4.5 mmol, 1.5 ml | C(C)[Mg]Br
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (4-{[4′-(1-Ethyl-1-hydroxypropyl)-6,2′-dimethylbiphenyl-3-ylamino]methyl}-2-hydroxymethylphenyl)methanol | C(C)C(CC)(O)C1=CC(=C(C=C1)C1=CC(=CC=C1C)NCC1=CC(=C(C=C1)CO)CO)C | C28H35NO3
